US06316482B1
To a solution of 2-(1-pyrrolyl)nitrobenzene (1.11 g) in ethanol (30 ml) were added iron powder (1.65 g) and acetic acid (3.54 g) and the mixture was refluxed for 1 hour. The reaction mixture was filtered through a bed of celite and the filtrate was concentrated in vacuo. The residue was diluted with a mixture of ethyl acetate and saturated aqueous sodium bicarbonate solution and the mixture was filtered through a bed of celite again. The organic layer was separated and washed with water and brine. The solution was dried over sodium sulfate and the solvent was evaporated in vacuo to give 2-(1-pyrrolyl)phenylamine (860 mg).

reactant | 2-(1-pyrrolyl)nitrobenzene | 1.11 g | N1(C=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C10H8N2O2
reactant | acetic acid | 3.54 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | iron | 1.65 g | [Fe] | Fe
product | 2-(1-pyrrolyl)phenylamine | 860 mg | N1(C=CC=C1)C1=C(C=CC=C1)N | C10H10N2
